US05474995
Step 1: Methyl 2-trimethylsilyloxyisobutyrate
To a solution of 1.2 mL (10.4 mmol) of methyl 2-hydroxyisobutyrate in 50 mL of CH2Cl2 were added 1.2 g (17.6 mmol) of imidazole and 2.1 mL (16.6 mmol) of TMSCl. The mixture was stirred at r.t. for 1.5 h and quenched with 20 mL of H2O. The organic layer was dried over MgSO4, concentrated and passed through a short plug of silica gel eluted with 9:1 hexane/EtOAc. Evaporation of solvent afforded 1.27 g of the title compound as a colorless oil.

reactant | methyl 2-hydroxyisobutyrate | 10.4 mmol, 1.2 mL | OC(C(=O)OC)(C)C | C5H10O3
reactant | imidazole | 17.6 mmol, 1.2 g | N1C=NC=C1 | C3H4N2
reactant | TMSCl | 16.6 mmol, 2.1 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | Methyl 2-trimethylsilyloxyisobutyrate | 1.27 g | C[Si](OC(C(=O)OC)(C)C)(C)C | C8H18O3Si
